US07470715B2
A solution of 1-[3-(4-triisopropylsilanyloxy-phenyl)-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester (288 g) in 3 L DMF was cooled to 5° C. under an atmosphere of N2. The reaction solution was treated with N-bromosuccinimide (131.5 g) and allowed to slowly warm to room temperature over 20 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (2 L), cooled to −15° C., and quenched with 10% sodium metabisulfite solution (150 mL) with stirring. The organic layer was separated, washed with sat. NaHCO3 (250 mL) and brine (250 mL), dried over Na2SO4, filtered, and evaporated. The residue was purified by column chromatography (0 to 20% ethyl acetate in hexanes) to afford 1-[4-bromo-3-(4-triisopropylsilanyloxy-phenyl)-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester (285 g) as a light-brown thick liquid.

reactant | 1-[3-(4-triisopropylsilanyloxy-phenyl)-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester | 288 g | C(C)OC(=O)C1(CC1)C1=CC(=NO1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C24H35NO4Si
reactant | N-bromosuccinimide | 131.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 3 L | CN(C)C=O | C3H7NO
product | 1-[4-bromo-3-(4-triisopropylsilanyloxy-phenyl)-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester | 285 g | C(C)OC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)Br | C24H34BrNO4Si
